US06797718B2
Under a nitrogen atmosphere, sodium borohydride (0.76 g, 20.0 mmol) was added in two portions to a solution of nickel (II) chloride hydrate (1.57 g, 6.62 mmol) in methanol (160 mL), and the mixture was stirred at room temperature for 15 minutes. A solution of {2-[2-(2-[bis {4-methoxybenzyl}amino]-6-chloro-5-methyl-3-nitropyridin-4-ylamino)ethoxy]ethyl}carbamic acid tert-butyl ester (8.37 g, 13.3 mmol) in methanol (10 mL) and dichloromethane (10 mL) was then added, and the addition funnel was rinsed with a mixture of methanol (10 mL) and dichloromethane (10 mL). The reaction was stirred for two hours, during which time additional sodium borohydride was added three times (0.5 g, 0.5, g and 1.0 g). Water (200 mL) was then added, and the methanol was removed under reduced pressure. The remaining solution was extracted with diethyl ether (700 mL, 300 mL), and the combined extracts were washed with water (200 mL) and brine (200 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to product the crude product contaminated with water. Toluene (300 mL) was added and then removed by distillation to provide [2-(2-{3-amino-2-[bis-(4-methoxybenzyl)amino]-6-chloro-5-methylpyridin-4-ylamino}ethoxy)ethyl]carbamic acid tert-butyl ester, which was used in Part F without further purification.

reactant | sodium borohydride | 20.0 mmol, 0.76 g | [BH4-].[Na+]
reactant | {2-[2-(2-[bis {4-methoxybenzyl}amino]-6-chloro-5-methyl-3-nitropyridin-4-ylamino)ethoxy]ethyl}carbamic acid tert-butyl ester | 13.3 mmol, 8.37 g | C(C)(C)(C)OC(NCCOCCNC1=C(C(=NC(=C1C)Cl)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)[N+](=O)[O-])=O | C31H40ClN5O7
solvent | methanol | 160 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | nickel (II) chloride hydrate | 6.62 mmol, 1.57 g | O.[Ni](Cl)Cl
product | [2-(2-{3-amino-2-[bis-(4-methoxybenzyl)amino]-6-chloro-5-methylpyridin-4-ylamino}ethoxy)ethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCOCCNC1=C(C(=NC(=C1C)Cl)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)N)=O | C31H42ClN5O5
